US08754107B2
(3S,7R,7aR)-7-(Benzylamino)-7a-methyl-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one was synthesized from (3S,7aR)-7a-methyl-3-phenyl-2,3-dihydropyrrolo[2,1-b]oxazol-5(7aH)-one and benzyl amine using general procedure Y. RP-HPLC (Table 1, Method a) Rt 1.73; m/z: (M+H)+ 323.

reactant | (3S,7aR)-7a-methyl-3-phenyl-2,3-dihydropyrrolo[2,1-b]oxazol-5(7aH)-one | C[C@]12OC[C@@H](N1C(C=C2)=O)C2=CC=CC=C2 | C13H13NO2
reactant | benzyl amine | C(C1=CC=CC=C1)N | C7H9N
product | (3S,7R,7aR)-7-(Benzylamino)-7a-methyl-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one | C(C1=CC=CC=C1)N[C@@H]1CC(N2[C@@]1(OC[C@@H]2C2=CC=CC=C2)C)=O | C20H22N2O2
